US03966737
12 g of 2,10-dichloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin are heated for 10 minutes together with 16 g of N-methylpiperazine at an external temperature of 120°-130°. After cooling the reaction mixture is poured on water and extracted with ether. The organic phase is washed with water and subsequently treated with 2 N hydrochloric acid. A precipitate is obtained. The mixture is extracted with ether, made alkaline and subsequently again extracted with ether. The organic phase is washed with water, dried over magnesium sulphate and evaporated. The so-obtained raw 1-(2-chloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-4-methylpiperazine is converted to the corresponding maleate by treatment with maleic acid. The maleat melts at 200° with decomposition.

reactant | 2,10-dichloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin | 12 g | ClC1=CC2=C(SC3=C(C(C2)Cl)C=CC(=C3)F)C=C1 | C14H9Cl2FS
reactant | N-methylpiperazine | 16 g | CN1CCNCC1 | C5H12N2
product | 1-(2-chloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-4-methylpiperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)C)C=CC(=C3)F)C=C1 | C19H20ClFN2S
